US05093531
Leu.
* 6.00 (6); Phe. 3.94 (4); Lys. 3.32 (3)

reactant | Phe | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
product | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
